US08236789B2
Under an argon atmosphere, a solution of 1-(4-methoxyphenyl)cyclopropane carboxylic acid (2.00 g, 10.4 mmol) in tetrahydrofuran (20 mL) was added with lithium aluminum hydride (513 mg, 13.5 mmol) at 0° C., and the resultant was stirred at room temperature for 2 hours. The resultant was added sequentially with water and hydrochloric acid at 0° C., stirred at room temperature for 30 min and then extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and concentrated in vacuo. The obtained residue was dissolved in dichloromethane (15 mL). The resultant was sequentially added with molecular sieves 4β (1.80 g), N-methylmorpholine (1.83 g, 15.6 mmol) and tetrapropylammonium perruthenate (1.83 mg, 0.520 mmol) at 0° C., and stirred at room temperature for 1.5 hours. The reaction solution was filtered using celite, and concentrated in vacuo. The obtained residue was purified using column chromatography (hexane:ethyl acetate=4:1), and 1-(4-methoxyphenyl)cyclopropane carboaldehyde (1.54 g, 84.0%) was obtained.

reactant | 1-(4-methoxyphenyl)cyclopropane carboxylic acid | 10.4 mmol, 2.00 g | COC1=CC=C(C=C1)C1(CC1)C(=O)O | C11H12O3
reactant | lithium aluminum hydride | 13.5 mmol, 513 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
reactant | N-methylmorpholine | 15.6 mmol, 1.83 g | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | tetrapropylammonium perruthenate | 0.520 mmol, 1.83 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
solvent | water | O | H2O
product | 1-(4-methoxyphenyl)cyclopropane carboaldehyde | 1.54 g, 84.0% | COC1=CC=C(C=C1)C1(CC1)C=O | C11H12O2
